US08383821B2
1-(tert-Butoxycarbonyl)-4-(pyridin-3-yl)piperidine-4-carboxylic acid.
A flask was charged with tert-butyl 4-cyano-4-(pyridin-3-yl)piperidine-1-carboxylate (7.5 g, 26.1 mmol) and NaOH (50% in water, 100 mL) in ethanol (100 ml) and heated at reflux for 6 h. The ethanol was removed, and the resulting solution was acidified to pH=5 using concentrated hydrochloric acid. The desired product was collected by filtration, and dried overnight to yield 4.1 g (51%). Mass Spec.: 307.18 (MH)+. LC tr=1.31 min (Phenomenex-Luna 4.6×50 mm S10, 10% MeOH/90% H2O/0.1% TFA→90% MeOH/10% H2O/0.1% TFA Gradient Time=2 min, Flow rate=4 mL/min)

reactant | tert-butyl 4-cyano-4-(pyridin-3-yl)piperidine-1-carboxylate | 26.1 mmol, 7.5 g | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C=1C=NC=CC1 | C16H21N3O2
reactant | NaOH | 100 mL | [OH-].[Na+]
reactant | MeOH | CO | CH4O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(tert-Butoxycarbonyl)-4-(pyridin-3-yl)piperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C=1C=NC=CC1 | C16H22N2O4
